US08008306B2
e) Preparation of 3-benzyl-4-(6-bromohexyloxy)-8-(trifluoromethyl)quinoline
A DMF (3 mL) solution of 3-benzyl-8-(trifluoromethyl)quinolin-4-ol (500 mg, 1.65 mmol), 1,6-dibromohexane (3.22 g, 13.20 mmol), and potassium carbonate (455.7 mg, 3.30 mmol) was stirred at room temperature overnight. The reaction solution was added with water and extracted with ethyl acetate. Subsequently, the organic layer was washed with brine, dried using anhydrous sodium sulfate, and concentrated in vacuo. The obtained residue was purified using silica-gel column chromatography (hexane:ethyl acetate), and the title compound (660 mg, yield 86%) was obtained as a colorless oil.

reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
reactant | 3-benzyl-8-(trifluoromethyl)quinolin-4-ol | 1.65 mmol, 500 mg | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1O)C(F)(F)F | C17H12F3NO
reactant | 1,6-dibromohexane | 13.20 mmol, 3.22 g | BrCCCCCCBr | C6H12Br2
reactant | potassium carbonate | 3.30 mmol, 455.7 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 3-benzyl-4-(6-bromohexyloxy)-8-(trifluoromethyl)quinoline | 660 mg, yield 86% | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1OCCCCCCBr)C(F)(F)F | C23H23BrF3NO
